US07892728B2
[1-9. Determination of Nicotine Transport Activity]
The activity at pH 8.0 was determined using a buffer comprising 125 mM sodium chloride, 4.8 mM potassium chloride, 5.6 mM D-glucose, 1.2 mM calcium chloride, 1.2 mM potassium dihydrogen phosphate, 1.2 mM magnesium sulfate, and 25 mM tricine. The activity at pH 7.0 was further determined using a buffer comprising 125 mM sodium chloride, 4.8 mM potassium chloride, 5.6 mM D-glucose, 1.2 mM calcium chloride, 1.2 mM potassium dihydrogen phosphate, 1.2 mM magnesium sulfate, and 25 mM MOPS-NaOH.

reactant | sodium chloride | 125 mM | [Cl-].[Na+]
reactant | potassium chloride | 4.8 mM | [Cl-].[K+]
reactant | D-glucose | 5.6 mM | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | calcium chloride | 1.2 mM | [Cl-].[Ca+2].[Cl-]
reactant | potassium dihydrogen phosphate | 1.2 mM | P(=O)(O)(O)[O-].[K+]
reactant | magnesium sulfate | 1.2 mM | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | tricine | 25 mM | N(CC(=O)O)C(CO)(CO)CO | C6H13NO5
reactant | sodium chloride | 125 mM | [Cl-].[Na+]
reactant | potassium chloride | 4.8 mM | [Cl-].[K+]
reactant | D-glucose | 5.6 mM | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | calcium chloride | 1.2 mM | [Cl-].[Ca+2].[Cl-]
reactant | potassium dihydrogen phosphate | 1.2 mM | P(=O)(O)(O)[O-].[K+]
reactant | magnesium sulfate | 1.2 mM | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | MOPS NaOH | 25 mM | C1COCCN1CCCS(=O)(=O)O.[OH-].[Na+]
product | Nicotine | N1=CC=CC(=C1)C1N(C)CCC1 | C10H14N2
